US05071988
A. 4-Acetyl-4'-methoxy-2-nitro biphenyl
A stirred mixture of 4-iodoanisole (43.65 g, 0.187 mole), 4-bromo-3-nitro acetophenone (40.6 g, 0.166 mole) and copper powder (copper bronze, 36 g, 0.567 mole) kept under nitrogen is placed in an oil bath heated at 80° C. The temperature is slowly raised to 110° C. and the mixture is kept at this temperature for 5 days (TLC, 8:2 hexane-ethyl acetate). Upon cooling the mixture is dissolved in dichloromethane and filtered through a Celite pad. The filtrate and washings are evaporated and the residual thick, dark brown oil (58.4 g) is flash chromatographed (on silica Merck 60, preabsorbed in dichloromethane, eluted with 9:1 hexane-ethyl acetate to remove the impurities and 8:2 hexane-ethyl acetate to recover the main product) to provide 16.2 g (32%) of the title compound (yellow solid, m.p. 124°-126° C.).

reactant | 4-iodoanisole | 0.187 mole, 43.65 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | 4-bromo-3-nitro acetophenone | 0.166 mole, 40.6 g | CC(=O)C1=CC(=C(C=C1)Br)[N+](=O)[O-] | C8H6BrNO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper | 0.567 mole, 36 g | [Cu] | Cu
product | 4-Acetyl-4'-methoxy-2-nitro biphenyl | 16.2 g, 32% | C(C)(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C15H13NO4
